US07776869B2
N-(2-Methyl-3-nitrophenyl)-2-morpholinoacetamide (0.25 g, 0.9 mmol) was dissolved in 20 ml of MeOH, and to this was added a slurry of 10% Pd/C (0.025 g) in a minimal amount of EtOH. The reaction vessel was evacuated and purged with H2, and the reaction was stirred at room temperature for 16 hours. The mixture was purged with N2 for 30 minutes and then filtered through a pad of celite. Solvent evaporation afforded N-(3-amino-2-methylphenyl)-2-morpholinoacetamide as a gray solid. MS m/z=250.1 [M+H]+; Calc'd for C13H19N3O2: 249.

reactant | N-(2-Methyl-3-nitrophenyl)-2-morpholinoacetamide | 0.9 mmol, 0.25 g | CC1=C(C=CC=C1[N+](=O)[O-])NC(CN1CCOCC1)=O | C13H17N3O4
reactant | EtOH | CCO | C2H6O
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 0.025 g | [Pd] | Pd
product | N-(3-amino-2-methylphenyl)-2-morpholinoacetamide | NC=1C(=C(C=CC1)NC(CN1CCOCC1)=O)C | C13H19N3O2
